US06388088B1
A solution of nickel (II) chloride hexahydrate (102 mg, 0.428 mmol) and (E)-3-cyclopentyl-2-[4-(5-methyl-tetrazol-1-yl)-3-trifluoromethyl-phenyl]-acrylic acid methyl ester (814 mg, 2.14 mmol) in methanol (20 mL) was cooled to 0° C. and then treated with sodium borohydride (265 mg, 7 mmol) in five portions. After the addition, the black reaction mixture was stirred for 15 min at 0° C. and then allowed to warm to 25° C. where it was stirred for 15 h. The reaction mixture was concentrated in vacuo, and the residue was diluted with a 3N aqueous hydrochloric acid solution (50 mL) and ethyl acetate (75 mL). The two layers were separated. The organic layer was washed with a saturated aqueous sodium chloride solution (1×50 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford racemic 3-cyclopentyl-2-[4-(5-methyl-tetrazol-1-yl)-3-trifluoromethyl-phenyl]-propionic acid methyl ester (815 mg, 99%) as a viscous oil: EI-HRMS m/e calcd for C18H21F3N4O2 (M+) 382.1617, found 382.1617.

reactant | (E)-3-cyclopentyl-2-[4-(5-methyl-tetrazol-1-yl)-3-trifluoromethyl-phenyl]-acrylic acid methyl ester | 2.14 mmol, 814 mg | COC(\C(=C\C1CCCC1)\C1=CC(=C(C=C1)N1N=NN=C1C)C(F)(F)F)=O | C18H19F3N4O2
reactant | sodium borohydride | 7 mmol, 265 mg | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
catalyst | nickel (II) chloride hexahydrate | 0.428 mmol, 102 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | racemic 3-cyclopentyl-2-[4-(5-methyl-tetrazol-1-yl)-3-trifluoromethyl-phenyl]-propionic acid methyl ester | 815 mg, 99% | COC(C(CC1CCCC1)C1=CC(=C(C=C1)N1N=NN=C1C)C(F)(F)F)=O | C18H21F3N4O2
